US07465742B2
3-amino-6-(2-chloro-acetyl)-4-thiophen-2-yl-6,7-dihydro-5H-1-thia-6,8-diaza-s-indacene-2-carboxylic acid amide (104)
To 50 mg (0.158 mmol) of 3-amino-4-thiophen-2-yl-6,7-dihydro-5H-1-thia-6,8-diaza-s-indacene-2-carboxylic acid amide hydrochloride in 3.0 ml of DMF was added dropwise 0.32 ml of 1.0 M solution containing diisopropylethylamine (DIPEA) in THF and (0.16 mmol) of 2-chloroacetyl chloride in 1.0 ml of DMF, according to standard procedures. The resulting mixture was continuously stirred at room temperature for several hours, and the progress of the reaction was monitored by TLC. The solvent was removed under vacuum, and the residue was recrystallized from a polar solvent. Similar procedures were used for 3-amino-6-[2-(4-benzyl-cyclohexylamino)-acetyl]-4-thiophen-2-yl-6,7-dihydro-5H-1-thia-6,8-diaza-s-indacene-2-carboxylic acid amide (103) and 3-amino-6-(6-morpholin-4-yl-pyridine-3-carbonyl)-4-thiophen-2-yl-6,7-dihydro-5H-1-thia-6,8-diaza-s-indacene-2-carboxylic acid amide (105). In some cases, if the product was not recrystallized from methanol or ethanol, the reaction mixture was purified by flash column chromatography or preparative HPLC. All products were verified by NMR spectroscopy.

reactant | 3-amino-4-thiophen-2-yl-6,7-dihydro-5H-1-thia-6,8-diaza-s-indacene-2-carboxylic acid amide hydrochloride | 0.158 mmol, 50 mg | Cl.NC1=C(SC2=NC=3CNCC3C(=C12)C=1SC=CC1)C(=O)N
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-chloroacetyl chloride | 0.16 mmol | ClCC(=O)Cl | C2H2Cl2O
solvent | DMF | 3.0 ml | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
solvent | DMF | 1.0 ml | CN(C)C=O | C3H7NO
product | 3-amino-6-(2-chloro-acetyl)-4-thiophen-2-yl-6,7-dihydro-5H-1-thia-6,8-diaza-s-indacene-2-carboxylic acid amide | NC1=C(SC2=NC=3CN(CC3C(=C12)C=1SC=CC1)C(CCl)=O)C(=O)N | C16H13ClN4O2S2
